datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH:10]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([NH+:10]2CCC[C@H]2CN2C(=O)C3=C(C=CC=C3)C2=O)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10=20;20,21=21"
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1>>C[C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12"
"CCCC[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CCCC[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1C(C)[O:62][C:11]([H:10])([CH:72]=[CH2:73])[O:12]1.CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC1C(C)[O:62][C:11]([CH:72]=[CH2:73])=[O+:12]1.CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])CC1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C+:11]2CCCCC2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1[C:11]([O-:12])=[N:10][C:61](=[O:62])[O:72]1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:11](=[O:12])C[O:72][C:61]2=[O:62])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[Si:11](C)([H:10])[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1.C[Si+:11](C)[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[C:11](=[CH2:10])[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[CH:51]=[CH:52][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"C1C[C:18]2=[C:19]3[C:68](=[CH:67][C:16]([CH:15]=[C:14]4[CH:10]=[CH:11][CH:12]=[CH:13]4)=[CH:17]2)CCC[N:220]3C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[C:14]2[CH:15]=[C:16]2[CH:17]=[C:18]3CCC[N+:220]4=[C:19]3[C:68](=[CH:67]2)CCC4)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;20,21=21,22;22,23=23,24;220=19,220;24,25=25"
"CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62].CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([CH:10]([C:61](=[O:62])[N:72](CC)CC)[C:81](C)=[O:82])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:72][C:61](/[C:10](F)=[C:11](\[O-:12])[O:82]CC)=[O:62].FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([C:10](F)([C:11](=[O:12])[O:82]CC)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C2=CC=CC=C2)[CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
